US09428503B2
Intermediate V2: 8-Bromo-1-[(3R)-tetrahydrofuran-3-yl]-3H-imidazo[4,5-c]quinolin-2-one
Triethylamine (2.60 ml, 18.69 mmol) was added to 6-bromo-4-[[(3R)-tetrahydrofuran-3-yl]amino]quinoline-3-carboxylic acid (2.1 g, 6.23 mmol) in DMF (30 mL) and the resulting mixture stirred at ambient temperature for 1 h. Diphenyl phosphorazidate (3.43 g, 12.46 mmol) was added and the resulting mixture stirred at 60° C. overnight. The reaction mixture was diluted with water (300 mL) and the solids collected by filtration to afford the desired material as a yellow solid (2.0 g, 96%). NMR Spectrum: 1H NMR (300 MHz, DMSO-d6) δ 2.42-2.45 (2H, m), 3.85-3.90 (1H, m), 4.05-4.16 (2H, m), 4.16-4.25 (1H, m), 5.62-5.72 (1H, m), 7.16-7.18 (1H, m), 7.74 (1H, d), 7.97 (1H, d), 8.68 (1H, s), 8.73 (1H, s), 11.84 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=334.

reactant | Triethylamine | 18.69 mmol, 2.60 ml | C(C)N(CC)CC | C6H15N
reactant | 6-bromo-4-[[(3R)-tetrahydrofuran-3-yl]amino]quinoline-3-carboxylic acid | 6.23 mmol, 2.1 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)N[C@H]1COCC1 | C14H13BrN2O3
reactant | Diphenyl phosphorazidate | 12.46 mmol, 3.43 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | 8-Bromo-1-[(3R)-tetrahydrofuran-3-yl]-3H-imidazo[4,5-c]quinolin-2-one | 2.0 g, 96% | BrC1=CC=2C3=C(C=NC2C=C1)NC(N3[C@H]3COCC3)=O | C14H12BrN3O2
